US04695574
4-(7-Chloro-4-quinolinylamino)-N-[(1-ethyl-2-pyrrolidinyl)-methyl]benzenesulphonamide
4-(7-Chloro-4-quinolinylamino)benzenesulphonyl chloride hydrochloride (23.4 g, 0.06 mol) was added portionwise to a well stirred mixture of aqueous sodium carbonate (60 g in 600 ml water) and 2-aminomethyl-1 ethyl pyrrolidine (7.8 g, 0.06 mol) in chloroform (600 ml) at about 10° C. The ice bath used for cooling was removed and, after 11/2 hours, the mixture was filtered. The chloroform layer was separated and dried (MgSO4). Concentration under reduced pressure caused precipitation of a solid, which was collected by filtration and dried. Recrystallisation from ethanol gave the title compound (10.5 g), melting point 200°-201.5° C.

reactant | 4-(7-Chloro-4-quinolinylamino)benzenesulphonyl chloride hydrochloride | 0.06 mol, 23.4 g | Cl.ClC1=CC=C2C(=CC=NC2=C1)NC1=CC=C(C=C1)S(=O)(=O)Cl
reactant | sodium carbonate | 600 ml, 60 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-aminomethyl-1 ethyl pyrrolidine | 0.06 mol, 7.8 g | NCC1N(CCC1)CC | C7H16N2
solvent | chloroform | 600 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-(7-Chloro-4-quinolinylamino)-N-[(1-ethyl-2-pyrrolidinyl)-methyl]benzenesulphonamide | 10.5 g | ClC1=CC=C2C(=CC=NC2=C1)NC1=CC=C(C=C1)S(=O)(=O)NCC1N(CCC1)CC | C22H25ClN4O2S
